US07893056B2
To a solution of (9aR)-8-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)octahydropyrazino[2,1-c][1,4]oxazine (1.41 g, 4.66 mmol) in DMF (45 mL) was added (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (1.36 g, 4.45 mmol), N-methylmorpholine (2.45 mL, 22.3 mmol), 1-hydroxy-7-azabenzotriazole (0.730 g, 5.364 mmol), and EDC (1.02 g, 5.32 mmol). The solution was stirred overnight and was then diluted with Et2O (200 mL). The mixture was washed with water (2×100 mL), and the combined aqueous phase was extracted with a fresh portion of Et2O (100 mL). This Et2O layer was washed with a fresh portion of water (50 mL), and the combined organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was dissolved in DCM (200 mL), dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was azeotroped with MeOH (50 mL) to give [(2R)-3-(2-{2-chloro-5-fluoro-6-[(9aR)-hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide (2.4027 g, 91% crude yield) as a red/orange oil. LCMS: (M+H)+: 590.2.

reactant | (9aR)-8-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)octahydropyrazino[2,1-c][1,4]oxazine | 4.66 mmol, 1.41 g | ClC1=NC(=C(C(=N1)N1C[C@@H]2COCCN2CC1)F)NN | C11H16ClFN6O
reactant | (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 4.45 mmol, 1.36 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | N-methylmorpholine | 22.3 mmol, 2.45 mL | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxy-7-azabenzotriazole | 5.364 mmol, 0.730 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 5.32 mmol, 1.02 g
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(9aR)-hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 2.4027 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)N1C[C@@H]2COCCN2CC1 | C28H37ClFN7O4
